US07259266B2
Step 3. Preparation of ethyl 6-methoxy-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The ethyl 6-hydroxy-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.2 g, 0.66 mmole) and K2CO3 (0.48 g, 3.44 mmole) was suspended in acetone (7.5 mL). lodomethane (0.93 g, 6.60 mmole) was added and heated to 55° C. for 3 hrs. The contents were filtered through a plug of celite and washed with acetone. The solution was concentrated in vacuo to give a yellow solid (0.22 g, 98%). GCMS m/z 316.0 (M+). LCMS m/z 317.0 (M+H). 1H NMR (CDCl3/400 MHz) 7.64 (s, 1H), 6.72 (s, 1H), 6.55 (s, 1H), 5.65 (q, 1H, J=7.0 Hz), 4.28 (m, 2H), 3.73 (s, 3H), 2.20 (s, 3H), 1.32 (m, 3H).

reactant | ethyl 6-hydroxy-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.66 mmole, 0.2 g | OC=1C=C2C=C(C(OC2=C(C1)C)C(F)(F)F)C(=O)OCC | C14H13F3O4
reactant | K2CO3 | 3.44 mmole, 0.48 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 7.5 mL | CC(=O)C | C3H6O
product | ethyl 6-methoxy-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.22 g, 98% | COC=1C=C2C=C(C(OC2=C(C1)C)C(F)(F)F)C(=O)OCC | C15H15F3O4
